US07034039B2
A solution of tert-butyl[6-[amino(hydroxyimino)methyl]-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.46 g, 1 mmol), acetic anhydride (0.14 ml, 1.5 mmol) and a catalytic amount of acetic acid in tetrahydrofuran (10 ml) was refluxed under heating for 10 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from ethyl acetate-diisopropyl ether to give tert-butyl[4-butoxy-2-isobutyl-6-(5-methyl-1,2,4-oxadiazol-3-yl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.22 g, 45.8%) as crystals.

reactant | tert-butyl[6-[amino(hydroxyimino)methyl]-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 1 mmol, 0.46 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C(=NO)N)=O)CC(C)C)=O | C24H36N4O5
reactant | acetic anhydride | 1.5 mmol, 0.14 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl[4-butoxy-2-isobutyl-6-(5-methyl-1,2,4-oxadiazol-3-yl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.22 g, 45.8% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C1=NOC(=N1)C)=O)CC(C)C)=O | C26H36N4O5
